US04051248
B. 1-Phenyl-8-[(1,2,3,4-tetrahydro-6,7-dimethyl-1-oxo-2naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]decan-4-one
A mixture of 14.0 g of 2-[(dimethylamino)methyl]-3,4-dihydro-6,7-dimethyl-1(2H)-naphthalenone, hydrochloride, 13.1 g of 92% 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one and 250 ml of absolute ethanol is warmed on a steam bath for 1 hour and then stirred vigorously for 14 hours. The resulting precipitates are collected and washed with absolute ethanol to give 17.6 g of the title compound, melting point 182°-183° C.

reactant | 2-[(dimethylamino)methyl]-3,4-dihydro-6,7-dimethyl-1(2H)-naphthalenone, hydrochloride | 14.0 g | Cl.CN(C)CC1C(C2=CC(=C(C=C2CC1)C)C)=O
reactant | 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | 13.1 g | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 1-Phenyl-8-[(1,2,3,4-tetrahydro-6,7-dimethyl-1-oxo-2naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]decan-4-one | 17.6 g | C1(=CC=CC=C1)N1CNC(C12CCN(CC2)CC2C(C1=CC(=C(C=C1CC2)C)C)=O)=O | C26H31N3O2
